US06211219B1
9. 4-[2-(5-(1,2,4-triazol-4-yl)-1H-indol-3-yl)ethyl]cyclohexanol
A stirred mixture of 4-(1,2,4-triazol-4-yl)phenylhydrazine hydrochloride (930 mg, 3.5 mmol) in ethanol/water (25 ml, 4:1), under nitrogen, was slowly treated with a solution of 4-[4-(tert-butyldimethylsilanyloxy)cyclohexyl]butyraldehyde (1 g, 3.5 mmol) in ethanol (5 ml). The reaction mixture was heated at 140° C. for 18 hours in a sealed tube, cooled and evaporated. The residue was purified by column chromatography on silica using methanol/dichloromethane as eluent to afford the title compound as a mixture of cis and trans isomers (1 g, 92%). MS, ES+, m/z=311 for (M+H)+, δ(250 MHz, d6-DMSO) 1.07-1.88 (11H, m), 2.71 (2H, t, J=7 Hz), 3.70-3.78 (1H, m), 4.26 (1H, d, J=3 Hz), 7.21-7.32 (2H, m), 7.47 (1H, d, J=9Hz), 7.76 (1H, d, J=2Hz), 9.02 (2H, s), 11.10 (1H, br s).

reactant | 4-(1,2,4-triazol-4-yl)phenylhydrazine hydrochloride | 3.5 mmol, 930 mg | Cl.N=1N=CN(C1)C1=CC=C(C=C1)NN
reactant | 4-[4-(tert-butyldimethylsilanyloxy)cyclohexyl]butyraldehyde | 3.5 mmol, 1 g | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)CCCC=O | C16H32O2Si
solvent | ethanol water | 25 ml | C(C)O.O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-[2-(5-(1,2,4-triazol-4-yl)-1H-indol-3-yl)ethyl]cyclohexanol | N=1N=CN(C1)C=1C=C2C(=CNC2=CC1)CCC1CCC(CC1)O | C18H22N4O
